US05712300
Preparation of 3-(2-Methylpropyl)-3-(propen-2-yl)-2-pyrrolidinone
A solution of 3-(2-methylpropyl)-1-trimethylsilyl-2-pyrrolidinone (10.2 g, 47.8 mmol) and THF (153 mL) is cooled to -78° C., and LDA (2.0 M, 26.3 mL, 52.6 mmol) is added. The solution is stirred at -78° C. for 30 minutes and then allyl bromide (5.0 mL, 57 mmol) is added. The solution is allowed to warm to 5° C. over 2.5 hours, and is then stirred at 5° C. for 1 hour. After quenching with saturated aqueous ammonium chloride (25 mL), aqueous workup (EtOAc, MgSO4) and purification by column chromatography (1:9:10 v/v CH2Cl2 :EtOAc:hexane) provides 7.76 g (90%) of the title compound as an oil.

reactant | 3-(2-methylpropyl)-1-trimethylsilyl-2-pyrrolidinone | 47.8 mmol, 10.2 g | CC(CC1C(N(CC1)[Si](C)(C)C)=O)C | C11H23NOSi
reactant | LDA | 52.6 mmol, 2.0 M, 26.3 mL | [Li+].CC(C)[N-]C(C)C
reactant | allyl bromide | 57 mmol, 5.0 mL | C(C=C)Br | C3H5Br
solvent | THF | 153 mL | C1CCOC1 | C4H8O
product | 3-(2-Methylpropyl)-3-(propen-2-yl)-2-pyrrolidinone | 7.76 g, 90% | CC(CC1(C(NCC1)=O)C(=C)C)C | C11H19NO
